US07169925B2
Step F5: 3-(Pyridin-4-ylamino)-1H-indole-2-carboxylic acid pentafluorophenyl ester
Stir under N2 a suspension of 3-(4-pyridinylamino)-1H-indole-2-carboxylic acid (0.2 g, 0.78 mmol) in dimethylformamide, add pyridine (0.13 mL, 1.6 mmol) and then add dropwise pentafluorophenyl trifluoroacetate (0.31 g, 1.13 mmol). Stir the reaction overnight at ambient temperature and quench into water. Extract the aqueous mixture with ethyl acetate, wash with 5% aqueous potassium carbonate, brine and dry over MgSO4. Concentrate under vacuum to afford a crude solid, which is triturated with ether to obtain 0.13 g (41%) of the title compound: MS 420(M+H).

reactant | 3-(4-pyridinylamino)-1H-indole-2-carboxylic acid | 0.78 mmol, 0.2 g | N1=CC=C(C=C1)NC1=C(NC2=CC=CC=C12)C(=O)O | C14H11N3O2
reactant | pyridine | 1.6 mmol, 0.13 mL | N1=CC=CC=C1 | C5H5N
reactant | pentafluorophenyl trifluoroacetate | 1.13 mmol, 0.31 g | FC(C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C8F8O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(Pyridin-4-ylamino)-1H-indole-2-carboxylic acid pentafluorophenyl ester | 0.13 g, 41% | FC1=C(C(=C(C(=C1OC(=O)C=1NC2=CC=CC=C2C1NC1=CC=NC=C1)F)F)F)F | C20H10F5N3O2
